US04025527
Lead cyanamide (8.7 g.) was added to a solution of N,N'-bis-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]thiourea in acetonitrile (100 ml.) and dimethyl formamide (20 ml.) and the resultant suspension was heated under reflux with stirring for 24 hours. Additional lead cyanamide (8.7 g.) was added and heating was continued for 24 hours. Following filtration and concentration, the residue was chromatographed on a column of silica gel, eluting with ethyl acetate-isopropyl alcohol (5:1). Recrystallisation from isopropyl alcohol-isopropyl acetate afforded N-cyano-N',N"-bis-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine (0.6 g.), m.p. 92°-95°.

reactant | Lead cyanamide | 8.7 g | N#CN.[Pb]
reactant | N,N'-bis-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]thiourea | CC=1N=CNC1CSCCNC(=S)NCCSCC1=C(N=CN1)C | C15H24N6S3
reactant | lead cyanamide | 8.7 g | N#CN.[Pb]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
product | N-cyano-N',N"-bis-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine | 0.6 g | C(#N)NC(=NCCSCC1=C(N=CN1)C)NCCSCC1=C(N=CN1)C | C16H24N8S2
